US04230714
A solution consisting of 5-methoxy-2-methylpyridine (12.3 g.) and 30% hydrogen peroxide (12 ml.) dissolved in glacial acetic acid (50 ml) was heated in a steam bath for a period of 12 hours and then allowed to stand overnight (~16 hours) at room temperature (~25° C.). Water (5 ml.) was next added to the mixture, followed by manganese dioxide until effervescence ceased. The resulting mixture was then filtered and the recovered filtrate was subsequently evaporated under reduced pressure to afford crude 5-methoxy-2-methylpyridine-N-oxide (yield, 13.5 g.) as the residual oil.

reactant | 5-methoxy-2-methylpyridine | 12.3 g | COC=1C=CC(=NC1)C | C7H9NO
reactant | hydrogen peroxide | 12 ml | OO | H2O2
reactant | Water | 5 ml | O | H2O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | 5-methoxy-2-methylpyridine-N-oxide | 13.5 g | COC=1C=CC(=[N+](C1)[O-])C | C7H9NO2
